US08648066B2
7-[2-(difluoromethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 4 by omitting step 3, and using difluoroacetic acid and 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine in step 4. 1H NMR (400 MHz, Methanol-d4): 8.70 (br, 1H), 8.34 (s, 1H), 8.23 (s, 1H), 7.64 (s, 1H), 7.55 (d, 1H), 7.12 (d, 1H), 7.05 (t, 1H), 4.63 (s, 2H), 4.37 (m, 2H), 3.95 (m, 2H), 2.79 (t, 2H), 2.49 (s, 2H), 1.66 (t, 2H), 0.88 (s, 6H); MS (EI) for C26H26F2N6O: 477 (MH+).

reactant | difluoroacetic acid | FC(C(=O)O)F | C2H2F2O2
reactant | 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)N)C | C24H28N6O
product | 7-[2-(difluoromethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | FC(C1=NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC=NC=4CCC(CC34)(C)C)C2)N1)F | C26H26F2N6O
